US08629147B2
A mixture of [4-(2-Chloro-pyrimidin-4-yl)-phenyl]-dimethyl-amine (2.0 g, 8.58 mM), 3-Amino-1H-pyrazole-4-carboxylic acid ethyl ester (1.32 g, 8.58 mM), Cs2CO3 (4.4 g, 13.58 mM) in DMF (15 ml) was heated 2 hr at 105° C. The reaction was then cooled to room temperature and diluted with water (100 mL) and the yellow precipitate collected via filtration and was washed with water (2×30 ml) then ethyl ether (2×30 ml). The solid was dried under vacuo and comprised a mixture of 3-Amino-1-[4-(4-dimethylamino-phenyl)-pyrimidin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester and 5-Amino-1-[4-(4-dimethylamino-phenyl)-pyrimidin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester in a ratio of approximately 6:4. The solid is flushed thru a pad of silica eluting with 5% MeOH/dichloromethane/1% TEA and the material is pooled and evaporated to a solid. Crystallization from dichloromethane/MeOH afforded the slower of the two isomers 3-Amino-1-[4-(4-dimethylamino-phenyl)-pyrimidin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (1.1 g, 36.4% yield) as a bright yellow solid. ES-MS MH+353, 1H NMR (300 MHz, ppm, DMSO-d6): 8.84 (s, 1H), 8.63 (d, 1H), 8.15 (d, 2H), 7.77 (d, 1H), 6.93 (d, 2H), 5.85 (br s, 2H) 4.27 (q, 2H), 3.04 (s, 6H), 1.32 (t, 3H). Chromatography of the filtrate on silica eluting 1% TEA/EtOAc can provide the other faster isomer 5-Amino-1-[4-(4-dimethylamino-phenl)-pyrimidin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester as an off-white solid. ES-MS MH+ 353, 1H NMR (300 MHz, ppm, DMSO-d6): 8.7 (d, 1H), 8.12 (d, 2H), 7.83 (d, 1H), 7.79 (s, 1H), 7.64 (br S, 2H), 6.84 (d, 2H), 4.28 (q, 2H), 3.04 (s, 6H), 1.28 (t, 3H).

reactant | [4-(2-Chloro-pyrimidin-4-yl)-phenyl]-dimethyl-amine | 8.58 mM, 2.0 g | ClC1=NC=CC(=N1)C1=CC=C(C=C1)N(C)C | C12H12ClN3
reactant | 3-Amino-1H-pyrazole-4-carboxylic acid ethyl ester | 8.58 mM, 1.32 g | C(C)OC(=O)C=1C(=NNC1)N | C6H9N3O2
reactant | Cs2CO3 | 13.58 mM, 4.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 3-Amino-1-[4-(4-dimethylamino-phenyl)-pyrimidin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 1.1 g, 36.4% yield | C(C)OC(=O)C=1C(=NN(C1)C1=NC=CC(=N1)C1=CC=C(C=C1)N(C)C)N | C18H20N6O2
